US06028195
1-[(5-Acetyl-2-methoxy-6-methylpyridin-3-yl)aminocarbonyl]-4-(2,3-dimethylphenyl)piperazine
Pheny N-(5-acetyl-2-methoxy-6-methylpyridin-3-yl)carbamate and 1-(2,3-dimethylphenyl)piperazine were reacted by the same way with the example 46 to obtain the titled compound.

reactant | Pheny N-(5-acetyl-2-methoxy-6-methylpyridin-3-yl)carbamate | C(C)(=O)C=1C=C(C(=NC1C)OC)NC(OC1=CC=CC=C1)=O | C16H16N2O4
reactant | 1-(2,3-dimethylphenyl)piperazine | CC1=C(C=CC=C1C)N1CCNCC1 | C12H18N2
product | 1-[(5-Acetyl-2-methoxy-6-methylpyridin-3-yl)aminocarbonyl]-4-(2,3-dimethylphenyl)piperazine | yield: 81% | C(C)(=O)C=1C=C(C(=NC1C)OC)NC(=O)N1CCN(CC1)C1=C(C(=CC=C1)C)C | C22H28N4O3
